US06992087B2
(1R,2S)-1-{[6-cyclopropyl-5-(2,4-dichlorophenyl)-3-methylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (1R,2S)-1-[(5-bromo-6-cyclopropyl-3-methylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a solid: 1H NMR (CDCl3) δ 0.87-1.03, 1.60-1.69, 2.42, 2.71, 3.03, 3.25, 4.73, 4.99, 5.53, 7.12-7.66; MS (ESI+) for C23H21Cl2N3O m/z 426 (M+H)+.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | (1R,2S)-1-[(5-bromo-6-cyclopropyl-3-methylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1C1CC1)N[C@H]1[C@H](CC2=CC=CC=C12)O)C | C17H18BrN3O
product | (1R,2S)-1-{[6-cyclopropyl-5-(2,4-dichlorophenyl)-3-methylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | C1(CC1)C1=C(N=C(C(=N1)N[C@H]1[C@H](CC2=CC=CC=C12)O)C)C1=C(C=C(C=C1)Cl)Cl | C23H21Cl2N3O
